US05691349
A mixture of 3-ethynyl-3-hydroxyquinuclidine (302 mg), 4-iodoacetanilide (522 mg), bis(triphenylphosphine)-palladium (II) chloride (70 mg), copper (I) iodide (35 mg), triethylamine (2 ml) and DMF (4 ml) was heated at 65° C. under an atmosphere of argon for 4 hours. The reaction mixture was cooled then poured into 5% sodium carbonate solution (10 ml) and the resulting mixture extracted with ethyl acetate (3×5 ml). The organic extracts were combined, dried (MgSO4) and evaporated to give a solid residue. This residue was purified by flash column chromatography using a mixture of 10% methanol in dichloromethane containing 1% 0.880 ammonia as eluent to give 3-[2-(4-acetamidophenyl)ethynyl]-3-hydroxyquinuclidine (180 mg), m.p. 198° to 205° C. (with decomposition); microanalysis, found: C, 67.9; H, 7.0; N, 9.5%; C17H20N2O2.H2O requires: C, 67.55; H, 7.28; N, 9.27%; NMR (DMSO-d6): 1.3-1.45(1H, m), 1.56-1.7(1H, m), 1.8-2.0(3H, m), 2.06(3H, s), 2.7-2.8(4H, t), 2.85-2.92(1H, d), 3.1-3.17(1H, d), 5.65(1H, s), 7.3-7.35(2H, d), 7.55-7.6(2H, d) and 10.1(1H, br); m/Z 285 (M+H).

reactant | 3-ethynyl-3-hydroxyquinuclidine | 302 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | 4-iodoacetanilide | 522 mg | CC(=O)NC1=CC=C(C=C1)I | C8H8INO
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | 10 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)-palladium (II) chloride | 70 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 35 mg | [Cu]I
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 3-[2-(4-acetamidophenyl)ethynyl]-3-hydroxyquinuclidine | 180 mg | C(C)(=O)NC1=CC=C(C=C1)C#CC1(CN2CCC1CC2)O | C17H20N2O2
